* D:\Users\C1\Documents\C1_Repos\Technion_Project_A\LTSPICE\Simulations\Flyback V3.asc
L1 VL1 Vs 10µ
L2 0 VL2 4µ
V1 VL1 0 {Vin}
D1 VL2 Vout VS-E5PX6006
R1 Vout 0 5
XU1 Vg Vs 0 EPC2302
V2 N004 0 12
V3 P001 0 PULSE(0 6 0 45n 45n {D/fs} {1/fs})
XU3 N003 NC_01 0 P001 NC_02 N004 IR4427
R2 N003 Vg 25
C1 Vout 0 47µ
D2 Vs P002 VS-E5PX6006
C3 Vs P003 10n
R4 P003 0 7.5
C4 VL2 N002 10p
R5 Vout N002 20
D3 N001 P002 TDZV12
D4 VL1 N001 TDZV12
D5 P004 N003 PMEG2010BEA
R3 Vg P004 1K
D7 0 Vout TDZV12
.model D D
.lib C:\Users\C1\AppData\Local\LTspice\lib\cmp\standard.dio
K L1 L2 0.95
.param Vin = 12
.tran 500u startup
.param fs=1000k
.param D=0.3
* Transformer
.lib D:\Users\C1\Documents\C1_Repos\Technion_Project_A\LTSPICE\Components\Libraries\IR4427.lib
.lib EPCGanlibrary.lib
.backanno
.end
